US08034895B2
Synthesis of poly(4,4′-diiminostilbene-2,2′-disulfonic acid thiophene) (9)
A volume of 60 ml distilled water and a few drops of 2M sodium hydroxide was required to dissolve the commercially available 4,4′-diaminostilbene-2,2′-disulfonic acid (155 mg, 0.41 mmol). After the addition of 40 ml THF, 2,5-thiophene dicarboxaldehyde (58 mg, 0.42 mmol) was added along with a catalytic amount of benzyltriethyl ammonium chloride. The red coloured solution was stirred at room temperature for two days. The solvent was removed under reduced pressure to afford the polymer as a red solid that was recrystallized from ethanol. λmax (water): 305 and 338 nm. Mw=148 094, PDI=2.3, DP=286. 1H-NMR (200 MHz, [D] DMSO): δ=8.92 (br, s, 2H), 8.21 (br, s, 2H), 7.80 (br, s, 6H), 7.39 (br, s, 2H). Anal. cald. C20H12O6N2S3Na2.7.2H2O: C, 37.06, H, 4.11, N, 4.32, S, 14.84 found C, 37.27; H, 3.90; N, 4.28, S, 14.62. The 1S0,0-0S0,0 (HOMO-LUMO) transition was calculated to be 65 kcal/mol (2.83 eV). From the absorption onset in the red region of the spectrum, a value can be calculated for the band gap of 51.3 kcal/mol (2.23 eV) for 9.

reactant | 4,4′-diaminostilbene-2,2′-disulfonic acid | 0.41 mmol, 155 mg | NC=1C=C(C(=CC1)C=CC=1C(=CC(=CC1)N)S(=O)(=O)O)S(=O)(=O)O | C14H14N2O6S2
reactant | 2,5-thiophene dicarboxaldehyde | 0.42 mmol, 58 mg | S1C(=CC=C1C=O)C=O | C6H4O2S
catalyst | benzyltriethyl ammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4,4′-diiminostilbene-2,2′-disulfonic acid thiophene | S1C=CC=C1.N1C=2C=C(C(=CC21)C=CC=2C(=CC1=C(C2)N1)S(=O)(=O)O)S(=O)(=O)O | InChI=1S/C14H10N2O6S2.C4H4S/c17-23(18,19)13-5-11-9(15-11)3-7(13)1-2-8-4-10-12(16-10)6-14(8)24(20,21)22;1-2-4-5-3-1/h1-6,15-16H,(H,17,18,19)(H,20,21,22);1-4H
